US03978064
3-Isopropylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester
A solution of 3.2 g. of 3-hydroxymethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester in 30 ml. of benzene containing 650 mg. of isopropylamine is allowed to stir at room temperature for 48 hrs. The reaction solution is concentrated to give 4 g. of a yellow foam which could not be induced to crystallize.

reactant | 3-hydroxymethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | OC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C16H19NO6
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | benzene | 650 mg | C1=CC=CC=C1 | C6H6
product | 3-Isopropylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | C(C)(C)NC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C19H26N2O5
